US07645881B2
Preparation of 4,5,6-trimethyl-2-(3-phenyl-[1,2,4]oxadiazol-5-yl)-thieno[2,3-b]pyridin-3-ylamine (compound 24)
To a solution of N-hydroxy-benzamidine (41 mg, 0.30 mmol) in DCM (10 mL) was added PS-DIEA (240 mg, 0.90 mmol), followed by the addition of chloroacetyl chloride (0.36 mL, 0.45 mmol). The mixture was shaken at room temperature for 24 hr and filtered to remove the resin. The solvent was then replaced with toluene and the mixture obtained was stirred at 120° C. in a sealed tube overnight. The toluene was then replaced with DMF (10 mL) and to the solution was added K2CO3 (124 mg, 0.90 mmol) and 2-mercapto-4,5,6-trimethyl-nicotinonitrile (54 mg, 0.30 mmol). The mixture was stirred at 80° C. overnight before pouring it into water. The precipitate was collected and purified via flash chromatography to provide the title product, 4,5,6-trimethyl-2-(3-phenyl-[1,2,4]oxadiazol-5-yl)-thieno[2,3-b]pyridin-3-yl amine (21 mg, 21%).

reactant | N-hydroxy-benzamidine | 0.30 mmol, 41 mg | ONC(C1=CC=CC=C1)=N | C7H8N2O
reactant | DIEA | 0.90 mmol, 240 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 0.45 mmol, 0.36 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 0.90 mmol, 124 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-mercapto-4,5,6-trimethyl-nicotinonitrile | 0.30 mmol, 54 mg | SC1=C(C#N)C(=C(C(=N1)C)C)C | C9H10N2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5,6-trimethyl-2-(3-phenyl-[1,2,4]oxadiazol-5-yl)-thieno[2,3-b]pyridin-3-yl amine | 21 mg, 21% | CC1=C2C(=NC(=C1C)C)SC(=C2N)C2=NC(=NO2)C2=CC=CC=C2 | C18H16N4OS
